US09278968B2
To a mixture of 273 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide, 3 ml of dioxane, and 3 ml of methanol was added 6 ml of 1 M hydrochloric acid under ice-cooling, followed by stirring at room temperature for 16 hours. The reaction mixture was ice-cooled and 0.6 g of sodium hydrogen carbonate was added thereto in small portions to make the mixture weakly basic. The precipitated solid was collected by filtration and washed with water to obtain 236 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[2-(1,2-dihydroxyethyl)benzyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-[(2,6-difluorobenzyl)oxy]-N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 273 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NCC3=C(C=CC=C3)C3OC(OC3)(C)C)C(=CC=C1)F | C28H27F2N3O4
reactant | dioxane | 3 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 1 M, 6 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 0.6 g | C(O)([O-])=O.[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 8-[(2,6-difluorobenzyl)oxy]-N-[2-(1,2-dihydroxyethyl)benzyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 236 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NCC3=C(C=CC=C3)C(CO)O)C(=CC=C1)F | C25H23F2N3O4
